US07935815B2
Synthesis of ethyl (E)-3-(5-amino-6-methoxypyridin-2-yl)acrylate
Iron (3.72 g) and ammonium chloride (7.13 g) were added to a solution of ethyl (E)-3-(6-methoxy-5-nitropyridin-2-yl)acrylate (2.1 g) in ethanol (100 mL) and water (20 mL). The reaction solution was stirred at 100° C. for one hour and then left to cool to room temperature. The reaction solution was filtered through celite. Ethyl acetate was added and the organic layer was separated. The resulting organic layer was washed with saturated sodium bicarbonate water and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.85 g of the title compound. The property values of the compound are as follows.

reactant | ammonium chloride | 7.13 g | [Cl-].[NH4+]
reactant | ethyl (E)-3-(6-methoxy-5-nitropyridin-2-yl)acrylate | 2.1 g | COC1=C(C=CC(=N1)/C=C/C(=O)OCC)[N+](=O)[O-] | C11H12N2O5
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
catalyst | Iron | 3.72 g | [Fe] | Fe
product | ethyl (E)-3-(5-amino-6-methoxypyridin-2-yl)acrylate | 1.85 g | NC=1C=CC(=NC1OC)/C=C/C(=O)OCC | C11H14N2O3
